US06329405B1
(16b) 2-Methoxy-5-{(4-fluorophenyl)-[(S)-1-phenylethylamino]methyl}phenylamine
In a similar manner to that described in Example (1b), isomer B of N-[(4-methoxy-3-nitrophenyl)-(4-fluorophenyl)methyl]-N-[(S)-1-phenylethyl]amine (1.4 g), nickel chloride hexahydrate (1.76 g) and sodium borohydride (560 mg) were reacted, to afford isomer B (844 mg) of the title compound as a colorless oil.

reactant | N-[(4-methoxy-3-nitrophenyl)-(4-fluorophenyl)methyl]-N-[(S)-1-phenylethyl]amine | 1.4 g | COC1=C(C=C(C=C1)C(N[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)F)[N+](=O)[O-] | C22H21FN2O3
reactant | sodium borohydride | 560 mg | [BH4-].[Na+]
catalyst | nickel chloride hexahydrate | 1.76 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 2-Methoxy-5-{(4-fluorophenyl)-[(S)-1-phenylethylamino]methyl}phenylamine | 844 mg | COC1=C(C=C(C=C1)C(N[C@@H](C)C1=CC=CC=C1)C1=CC=C(C=C1)F)N | C22H23FN2O
